US04521607
N-(1-Indanyl)alanine (3.0 g) is suspended in 30 ml of dimethylacetamide, then 3.3 g of 3-acetylthio-2-methylpropionyl chloride is added dropwise with stirring at room temperature, and thereafter stirring is continued at room temperature for 2 hours. The reaction mixture is poured into 200 ml of water, and extracted with 200 ml of ethyl acetate. The extract is washed with 10 ml of 10% hydrochloric acid and with water, and dried. The ethyl acetate is distilled off under reduced pressure, and the residue is crystallized from an ethyl ether-petroleum ether mixture, to give 2.3 g of N-(3-acetylthio-2-methylpropionyl)-N-(1-indanyl)alanine, colorless needles having a melting point of 133°-137° C.

reactant | N-(1-Indanyl)alanine | 3.0 g | C1(CCC2=CC=CC=C12)N[C@@H](C)C(=O)O | C12H15NO2
reactant | 3-acetylthio-2-methylpropionyl chloride | 3.3 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
reactant | water | 200 ml | O | H2O
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | N-(3-acetylthio-2-methylpropionyl)-N-(1-indanyl)alanine | 2.3 g | C(C)(=O)SCC(C(=O)N([C@@H](C)C(=O)O)C1CCC2=CC=CC=C12)C | C18H23NO4S
